US07262185B2
To 5-[[(4-nitrophenyl)sulfanyl]methyl]-1,2,3,4-tetrazole (4.0 g) was added anhydrous acetic acid, and the mixture was heated to reflux for 1 hour. After allowing the mixture to be cooled to room temperature, the solvent was removed under reduced pressure. The obtained residue was dissolved in ethyl acetate/THF, washed with an aqueous solution of saturated sodium bicarbonate and saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was washed with hexane/ethyl acetate, to give 2-methyl-5-[[(4-nitrophenyl)sulfanyl]methyl]-1,3,4-oxadiazole (3.3 g).

reactant | 5-[[(4-nitrophenyl)sulfanyl]methyl]-1,2,3,4-tetrazole | 4.0 g | [N+](=O)([O-])C1=CC=C(C=C1)SCC1=NN=NN1 | C8H7N5O2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-5-[[(4-nitrophenyl)sulfanyl]methyl]-1,3,4-oxadiazole | 3.3 g | CC=1OC(=NN1)CSC1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O3S
